*****************************************************************
* NXP BUK9Y107-80E
*
* Polarity N-Channel
* Ratings 80V/1.070000E-001OHMS/11.7772202221997A
*
* Date Created Tue Feb 05 03:20:33 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y107-80E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0774602320794577 TC=0.00548199660352647,1.53810397740272E-05
RBD 9 4 0.00506142435215354 TC=0.00548199660352647,1.53810397740272E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 4.86e-10
RG 1 2 2.23523376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	534.616
+ -10	533.756
+ -8	532.499
+ -6	530.445
+ -5	528.688
+ -4	525.841
+ -3	518.403
+ -2	441.913
+ -1	272.456
+ -0.5	168.212
+ -0.2	104.37
+ -0.1	103.274
+ 0	89.47866
+ 0.1	76.43138
+ 0.2	76.36401
+ 0.5	66.93764
+ 1	55.60982
+ 2	46.34917
+ 3	46.2363
+ 4	46.00332
+ 5	44.92038
+ 6	43.81395
+ 8	42.10542
+ 10	40.80422
+ 12	39.70583
+ 15	38.26536
+ 16	37.81281
+ 20	36.26328
+ 25	34.6067
+ 30	33.20938
+ 50	29.50937



.MODEL MINT NMOS(Vto=2.11385758866967 Kp=3.009295e+001 Nfs=640000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=9.64366041202592e-14
+ N=1 M=0.66 VJ=0.69 Fc=0.5 Cjo=1.9650906e-10 Tt=1.3712e-08)

.ENDS

